US08686184B2
3-Bromo-4-methylbenzoic acid (331 mg, 1.5 mmol, 1.0 eq.) and (R)-2-(2-chloro-phenyl)-1-ethoxycarbonylmethyl-ethyl-ammonium chloride (428 mg, 1.5 mmol, 1.0 eq.) were combined with DIPEA (844 μL, 3.2 eq.) and HATU (585 mg, 1.5 mmol, 1.0 eq.) in DCM (8 mL). The resulting mixture was stirred for 1 hour, then chromatographed (0-80% EtOAc/hexanes gradient) to yield (R)-3-(3-bromo-4-methyl-benzoylamino)-4-(2-chloro-phenyl)-butyric acid ethyl ester.

reactant | 3-Bromo-4-methylbenzoic acid | 1.5 mmol, 331 mg, 1.0 eq. | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | (R)-2-(2-chloro-phenyl)-1-ethoxycarbonylmethyl-ethyl-ammonium chloride | 1.5 mmol, 428 mg, 1.0 eq. | [Cl-].ClC1=C(C=CC=C1)C[C@H](CC(=O)OCC)[NH3+]
reactant | DIPEA | 844 μL, 3.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.5 mmol, 585 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(3-bromo-4-methyl-benzoylamino)-4-(2-chloro-phenyl)-butyric acid ethyl ester | C(C)OC(C[C@@H](CC1=C(C=CC=C1)Cl)NC(C1=CC(=C(C=C1)C)Br)=O)=O | C20H21BrClNO3
